### PR TITLE
refactor: ditch `PGame`

### PR DESCRIPTION
**Pull request by vihdzp**
Thanks to the power of category theory, we don't actually have to go through the hassle of `PGame` in order to define `IGame`! See the module docstring on the new file `CombinatorialGames.Game.Functor` for more info.

We'll use this to define loopy games shortly.

Co-authored by <aaronliu2008@outlook.com>

### CODE REVIEW

File: CombinatorialGames/Game/Functor.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+```
+inductive IGame : Type (u + 1)
+  | ofSets (s t : Set IGame) [Small.{u} s] [Small.{u} t] : IGame
+
+coinductive LGame : Type (u + 1)
+  | ofSets (s t : Set LGame) [Small.{u} s] [Small.{u} t] : LGame
+```
+-/
+def GameFunctor : Type (u + 1) → Type (u + 1) :=
+  fun α => {s : Set α × Set α // Small.{u} s.1 ∧ Small.{u} s.2}
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Functor.lean]:
```suggestion
def GameFunctor (α : Type (u + 1)) : Type (u + 1) :=
  {s : Set α × Set α // Small.{u} s.1 ∧ Small.{u} s.2}
```

File: CombinatorialGames/Game/Functor.lean [hunk 2]
```diff
@@ -0,0 +1,82 @@
...
+```
+
+However, the kernel does not accept this, as `Set IGame = IGame → Prop` contains a non-positive
+occurence of `IGame` (meaning that it appears to the left of an arrow). We can get around this
+technical limitation using the machinery of `QPF`s (quotients of polynomial functors). We define a
+functor `GameFunctor` by
+
+```
+def GameFunctor : Type (u + 1) → Type (u + 1) :=
+  fun α => {s : Set α × Set α // Small.{u} s.1 ∧ Small.{u} s.2}
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Functor.lean]: Same suggestion as another comment:
```suggestion
def GameFunctor (α : Type (u + 1)) : Type (u + 1) :=
  {s : Set α × Set α // Small.{u} s.1 ∧ Small.{u} s.2}
```

File: CombinatorialGames/Game/Functor.lean [hunk 3]
```diff
@@ -0,0 +1,82 @@
...
+The type of games `IGame` is an inductive type, with a single constructor `ofSets` taking in two
+small sets of games and outputting a new game. This suggests the definition:
+
+```
+inductive IGame : Type (u + 1)
+  | ofSets (s t : Set IGame) [Small.{u} s] [Small.{u} t] : IGame
+```
+
+However, the kernel does not accept this, as `Set IGame = IGame → Prop` contains a non-positive
+occurence of `IGame` (meaning that it appears to the left of an arrow). We can get around this
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Functor.lean]: (if this is an attempt to explain why non-positive occurences in inductive types are bad, it might be better to link to counterexamples.org here)

File: CombinatorialGames/Game/Functor.lean [hunk 4]
```diff
@@ -0,0 +1,82 @@
...
+noncomputable instance : QPF GameFunctor where
+  P := ⟨Type u × Type u, fun x ↦ PLift x.1 ⊕ PLift x.2⟩
+  abs x := ⟨⟨Set.range (x.2 ∘ .inl ∘ PLift.up), Set.range (x.2 ∘ .inr ∘ PLift.up)⟩,
+    ⟨inferInstance, inferInstance⟩⟩
+  repr x := ⟨⟨Shrink x.1.1, Shrink x.1.2⟩,
+    Sum.rec (fun y ↦ ((equivShrink _).symm y.1).1) (fun y ↦ ((equivShrink _).symm y.1).1)⟩
+  abs_repr x := by ext <;> simp [← (equivShrink _).exists_congr_right]
+  abs_map f := by intro ⟨x, f⟩; ext <;> simp [PFunctor.map, map_def]
+  __ := instFunctor
+
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Functor.lean]:
```suggestion
  abs_map f := by intro ⟨x, f⟩; ext <;> simp [PFunctor.map, map_def]

```

**Review by tristan-f-r — APPROVED** [review]
(Edit: This should have been a comment, not an approval. See the comment below, but `igame_wf` allocates more memory.) I'm excited to see some theory on loopy games!

File: CombinatorialGames/Game/Functor.lean (hunk 3 above)
Comment (tristan-f-r) [reply CombinatorialGames/Game/Functor.lean]: https://counterexamples.org/strict-positivity.html

**Review by tristan-f-r — CHANGES_REQUESTED** [review]
`igame_wf` does take more heartbeats than before, which broke some of the longer multiplication proofs.

**Comment by vihdzp** [comment]
I imagine that might be an issue with reducibility. There's really no reason to unfold `IGame` once we've characterized it, I'll see if that fixes anything.

**Comment by vihdzp** [comment]
My fix worked!

File: CombinatorialGames/Game/Functor.lean [hunk 5]
```diff
@@ -0,0 +1,81 @@
...
+`GameFunctor` by
+
+```
+def GameFunctor (α : Type (u + 1)) : Type (u + 1) :=
+  {s : Set α × Set α // Small.{u} s.1 ∧ Small.{u} s.2}
+```
+
+We can prove that this is a `QPF`, which then allows us to build its initial algebra through
+`QPF.Fix`, which is exactly the inductive type `IGame`. As a bonus, we're able to describe the
+coinductive type of loopy games `LGame` as the cofinal algebra `QPF.Cofix` of the exact same
```
Comment (plp127) [inline CombinatorialGames/Game/Functor.lean]: That should be "the final coalgebra `QPF.Cofix`", the cofinal algebra would be the initial algebra, since the opposite of final is initial.

File: CombinatorialGames/Game/IGame.lean [hunk 6]
```diff
@@ -189,76 +93,53 @@ specifically use the 'identical' equivalence relation for this reason.
...
-alias _root_.PGame.Identical.mk_eq := mk_eq
+This is given notation `{s | t}ᴵ`, where the superscript `I` is to disambiguate from set builder
+notation, and from the analogous constructors on `Game` and `Surreal`.
 
-@[cases_eliminator]
-theorem ind {P : IGame → Prop} (H : ∀ y, P (mk y)) (x : IGame) : P x :=
-  Quotient.ind H x
+This function is regrettably noncomputable. Among other issues, sets simply do not carry data in
+Lean. To perform computations on `IGame` we can instead make use of the `game_cmp` tactic. -/
+def ofSets (s t : Set IGame.{u}) [hs : Small.{u} s] [ht : Small.{u} t] : IGame.{u} :=
```
Comment (plp127) [inline CombinatorialGames/Game/IGame.lean:107]: It's not noncomputable anymore, so the docstring is outdated.

Comment (vihdzp) [reply CombinatorialGames/Game/IGame.lean:107]: It's still noncomputable, since the `QPF` instance that `QPF.mk` relies on is. What isn't noncomputable are the destructors `leftMoves` and `rightMoves` (though that isn't of much use if we can't computably build any games to begin with).

Comment (plp127) [reply CombinatorialGames/Game/IGame.lean:107]: I guess I missed `noncomputable section` at the top

**Review by tristan-f-r — APPROVED** [review]
